US04618359
Preparation of 3-Tetrahydrofuryl 2-Nitro-5-(2-nitro-4-trifluoromethylphenoxy)benzoate
3-Hydroxytetrahydrofuran (0.04 mole), toluene (50 ml) and triethylamine (0.04 mole) are charged into a glass reaction vessel equipped with a mechanical stirrer and adtition funnel. A solution of 2-nitro-5-(2-nitro-4-trifluoromethylphenoxy)benzoyl chloride (0.04 mole) in toluene (20 ml) is slowly added at room temperature with stirring. After the addition is completed, stirring is continued for a period of about eight hours. After this time, the reaction mixture is washed with water and dried over anhydrous magnesium sulfate. The dried solution is then stripped of solvent under reduced pressure leaving a residue. This residue is purified by silica gel chromatography using toluene and ethyl acetate/toluene mixture as the eluant to yield the desired product 3-tetrahydrofuryl 2-nitro-5-(2-nitro-4-trifluoromethylphenoxy)benzoate.

reactant | 3-Hydroxytetrahydrofuran | 0.04 mole | OC1COCC1 | C4H8O2
reactant | triethylamine | 0.04 mole | C(C)N(CC)CC | C6H15N
reactant | 2-nitro-5-(2-nitro-4-trifluoromethylphenoxy)benzoyl chloride | 0.04 mole | [N+](=O)([O-])C1=C(C(=O)Cl)C=C(C=C1)OC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C14H6ClF3N2O6
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 3-tetrahydrofuryl 2-nitro-5-(2-nitro-4-trifluoromethylphenoxy)benzoate | [N+](=O)([O-])C1=C(C(=O)OC2COCC2)C=C(C=C1)OC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C18H13F3N2O8
